US09193728B2
Preparation of 3-(4-fluorophenyl)-6-methyl-1-nitroso-1,2,3,4-tetrahydroquinoline
To a stirred solution of 3-(4-fluorophenyl)-6-methyl-1,2,3,4-tetrahydroquinoline (0.28 g, 0.00166 mol) in ethanol (1 mL) was added 1N hydrochloric acid (1 mL), and the reaction mixture was cooled to 0° C. Sodium nitrite (0.160 g, 0.00232 mol) in water (3 mL) was added at 0° C., and the mixture stirred for 1 h at RT. The reaction was monitored by TLC. After completion, solvent was removed under reduced pressure to obtain product as a brown colored oil (0.28 g, 89% yield).

reactant | 3-(4-fluorophenyl)-6-methyl-1,2,3,4-tetrahydroquinoline | 0.00166 mol, 0.28 g | FC1=CC=C(C=C1)C1CNC2=CC=C(C=C2C1)C | C16H16FN
reactant | hydrochloric acid | 1N, 1 mL | Cl | ClH
reactant | Sodium nitrite | 0.00232 mol, 0.160 g | N(=O)[O-].[Na+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | water | 3 mL | O | H2O
product | 3-(4-fluorophenyl)-6-methyl-1-nitroso-1,2,3,4-tetrahydroquinoline | 0.28 g, 89% yield | FC1=CC=C(C=C1)C1CN(C2=CC=C(C=C2C1)C)N=O | C16H15FN2O
